US06872706B2
To a solution of 2-(4-methoxybenzyl)phenyl β-D-glucopyranoside (0.075 g) in 2,4,6-trimethylpyridine (2 mL) was added ethyl chloroformate (0.04 mL) at room temperature. After the mixture was stirred at room temperature for 16 hours, a saturated aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give amorphous 2-(4-methoxybenzyl)phenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside (0.032 g).

reactant | 2-(4-methoxybenzyl)phenyl β-D-glucopyranoside | 0.075 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC=C1)CC1=CC=C(C=C1)OC | C20H24O7
reactant | ethyl chloroformate | 0.04 mL | ClC(=O)OCC | C3H5ClO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 2,4,6-trimethylpyridine | 2 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 2-(4-methoxybenzyl)phenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside | 0.032 g | C(C)OC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)OC)O1)O)O)O | C23H28O9
